US08633189B2
4-Bromo-2-cyclopentyl-5-nitrophenyl methyl carbonate (700 mg, 2.03 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylate (629 mg, 2.03 mmol), Pd(PPh3)4 (235 mg, 0.20 mmol), and Cs2CO3 (1325 mg, 4.07 mmol) were combined in DMF (10 mL) and heated at 90° C. for 4 h under N2 atmosphere. The reaction was diluted with water and extracted with dichloromethane (3×10 mL). The organic fractions were combined, dried over MgSO4, filtered and concentrated. Purification by silica gel chromatography (0-100% ethyl acetate/hexanes) yielded tert-butyl 4-(5-cyclopentyl-4-hydroxy-2-nitrophenyl)-5,6-dihydropyridine-1(2H)-carboxylate (596 mg, 77% yield). LC/MS m/z 389.4 [M+H]+.

reactant | 4-Bromo-2-cyclopentyl-5-nitrophenyl methyl carbonate | 2.03 mmol, 700 mg | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])Br)C1CCCC1)(OC)=O | C13H14BrNO5
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylate | 2.03 mmol, 629 mg | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | Cs2CO3 | 4.07 mmol, 1325 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.20 mmol, 235 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(5-cyclopentyl-4-hydroxy-2-nitrophenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 596 mg, 77% yield | C1(CCCC1)C=1C(=CC(=C(C1)C1=CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-])O | C21H28N2O5
